US06855716B2
Synthesis of 6-(2-aminoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide
10 ml of ethyl acetate was added to a mixture of 164 mg (0.350 mmol) of 6-(2-azidoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide and a catalytic amount of 10% palladium/carbon, and they were stirred at room temperature in hydrogen atmosphere under normal pressure for 24 hours. The catalyst was filtered out, and the filtrate was concentrated under reduced pressure. The residue was purified by the basic silica gel chromatography (dichloromethane/methanol=100/1 to 20/1) to obtain the title compound.

reactant | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
reactant | 6-(2-azidoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | 0.350 mmol, 164 mg | C1(=CC=CC=C1)CCCNC(=O)C=1C(NC(NC1COCCN=[N+]=[N-])=O)C1=CC(=CC=C1)Cl | C23H25ClN6O3
solvent | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
product | 6-(2-aminoethoxymethyl)-4-(3-chlorophenyl)-2-oxo-1,2,3,4-tetrahydropyrimidine-5-carboxylic acid (3-phenylpropyl)amide | C1(=CC=CC=C1)CCCNC(=O)C=1C(NC(NC1COCCN)=O)C1=CC(=CC=C1)Cl | C23H27ClN4O3
